US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[(2-thienylsulfonyl)-amino]benzamide monohydrochloride
The titled compound was prepared substantially in accordance with the method detailed in Example 6B using 1.50 g (0.00651 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide, prepared as in Example 6A, and 1.62 g (0.00847 mol) of 2-thiophenesulfonyl chloride, with the exception that after removing ethyl acetate, the resultant residue was dissolved in methanol containing hydrochloric acid and diethyl ether. The resulting solution was reduced to dryness under reduced pressure and the product was recrystallized from water and dried for approximately 8 hours at 100° C. under reduced pressure to provide 0.99 g of the desired titled compound (m.p. 210°-213° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide | 0.00651 mol, 1.50 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | 2-thiophenesulfonyl chloride | 0.00847 mol, 1.62 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[(2-thienylsulfonyl)-amino]benzamide monohydrochloride | 0.99 g | Cl.N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NS(=O)(=O)C=1SC=CC1)=O | InChI=1S/C16H16N4O3S2.ClH/c21-16(19-8-7-14-17-9-10-18-14)12-4-1-2-5-13(12)20-25(22,23)15-6-3-11-24-15;/h1-6,9-11,20H,7-8H2,(H,17,18)(H,19,21);1H
